US05043439
Diphenylmethyl 7-Phenoxyacetamido-3-(p-toluenesulfonyloxyl)ceph3-em-4-carboxylate.
A solution of diphenylmethyl 7-phenoxyacetamido-3-hydroxy-3-cephem-4-carboxylate (5.0 gm. 9.68 mmol) in 15 ml of dry tetrahydrofuran was cooled to -78° C. To the stirred solution, under an inert atmosphere of nitrogen, was added sodium hydride (0.23 g. 9.68 mmol) followed by p-toluenesulfonic anhydride (2.78 g, 11.6 mmol). The solution was slowly warmed to room temperature and the mixture was stirred for 18 hrs. The reaction mixture was poured into ice-water (25 ml) and the aqueous layer was extracted with ethyl acetate (3×20 ml). The combined organic layer was dried (anhydrous magnesium sulfate), and evaporated in vacuo to give light brown foam which was further purified by recrystallization using 2-propanol; yield-5.80 gm. 90%.

reactant | diphenylmethyl 7-phenoxyacetamido-3-hydroxy-3-cephem-4-carboxylate | 9.68 mmol, 5.0 gm | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C28H24N2O6S
reactant | sodium hydride | 9.68 mmol, 0.23 g | [H-].[Na+]
reactant | p-toluenesulfonic anhydride | 11.6 mmol, 2.78 g | C1(=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14O5S2
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | Diphenylmethyl 7-Phenoxyacetamido-3-(p-toluenesulfonyloxyl)ceph3-em-4-carboxylate | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)OS(=O)(=O)C2=CC=C(C=C2)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C35H30N2O8S2
